US07517876B2
4-(3,3-dimethylbutyl)-4-hydroxynaphthalene-1,3 (2H,4H)-dione
To a suspension of magnesium turnings (2.90 g, 0.12 mol) in tetrahydrofuran (150 mL) was added 1-chloro-3,3-dimethylbutane (14.2 g, 0.12 mol). The mixture was cooled to 0° C. and dibromoethane (2.5 mL, 29 mmol) was added portion wise over 15 min. The mixture was allowed to warm to room temperature and stirred for 1 h. After which, an additional equivalent of dibromoethane (2.5 mL, 29 mmol) was added portion wise over 15 min and stirred at room temperature for 72 h. The mixture was diluted with tetrahydrofuran (50 mL) cooled to −78° C., and treated with titanium(IV) isopropoxide (33.9 mL, 0.11 mol). The reaction mixture was stirred at −78° C. for 1 h and a solution of 2-hydroxy-1,4-naphthoquinone (5.0 g, 29 mmol) in tetrahydrofuran (80 mL) pre-cooled to 0° C. was added via a cannula. After addition, the solution was warmed to room temperature and stirred for 18 h. The solution was diluted with ethyl acetate (250 mL) and washed with aqueous 1 N HCl (2×100 mL). The organic layer was dried (Na2SO4) and concentrated in vacuo. Column chromatography on florisil (dichloromethane→1%→3→%5% methanol/dichloromethane) followed by second column chromatography on silica (30%→50% ethyl acetate/hexane) afforded the title compound as an orange amorphous solid (2.06 g, 28%). 1H NMR (300 MHz, DMSO-d6), δ ppm 0.33-0.52 (m, 1H), 0.68 (s, 9H), 0.77-0.92 (m, 1H), 1.67-1.84 (m, 1H), 1.88-2.11 (m, 1H), 5.56 (s, 1H), 7.36-7.45 (m, 1H), 7.57 (t, J=6.99 Hz, 1H), 7.62-7.68 (m, 1H), 7.82 (d, J=6.62 Hz, 1H); MS m/z 261.1 (M+H)+.

reactant | magnesium | 0.12 mol, 2.90 g | [Mg] | Mg
reactant | 1-chloro-3,3-dimethylbutane | 0.12 mol, 14.2 g | ClCCC(C)(C)C | C6H13Cl
reactant | dibromoethane | 29 mmol, 2.5 mL | BrC(C)Br | C2H4Br2
reactant | dibromoethane | 29 mmol, 2.5 mL | BrC(C)Br | C2H4Br2
reactant | 2-hydroxy-1,4-naphthoquinone | 29 mmol, 5.0 g | OC=1C(C2=CC=CC=C2C(C1)=O)=O | C10H6O3
solvent | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 80 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | 250 mL | C(C)(=O)OCC | C4H8O2
catalyst | titanium(IV) isopropoxide | 0.11 mol, 33.9 mL | CC([O-])C.[Ti+4].CC([O-])C.CC([O-])C.CC([O-])C
product | 4-(3,3-dimethylbutyl)-4-hydroxynaphthalene-1,3 (2H,4H)-dione | 2.06 g, 28% | CC(CCC1(C(CC(C2=CC=CC=C12)=O)=O)O)(C)C | C16H20O3
